Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:10]([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3]([O:4][C:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],-6.57520489974
[H:1][C:2]([O:3][C:4]([H:5])[H:6])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.124689836540003
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[O:9][C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.10336543509
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],7.177767803089999
[O:1][O:2][C:3]([C:4][H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][O:2][C:3]1=[C:4]([H:5])[C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],-1.4507158644999998
[C:1]=[C:2]([H:3])[C:5](=[O:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:4]>>[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[O:7][C:8]([H:9])([H:10])[H:11],-1.6835829136000002
[H:1][O:2][C:3][C:4]1[C:5][C:6]1[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]#[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-2.08156532005
[C:7]([H:8])([H:9])[H:10].[H:1]/[C:2]([O:3][C:4]([H:5])[H:6])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16],-4.181931240980002
[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[H:10].[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-5.152059083359999
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5],2.3076312841
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10],4.184008435980002
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[O:1][O:2][C:3][C:4]([H:5])[H:6],-0.847067082791
[C:6]([H:7])#[C:8][C:9]([H:10])[H:11].[H:1][O:2][C:3][O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-2.31721103068
[C:2][O:3][C:4]#[C:5][O:6][H:7].[H:1]>>[H:1][C:2][O:3][C:4]#[C:5][O:6][H:7],-3.56217303804
[O:1]=[C:2]([H:3])[C:4]([C:5](=[O:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1]=[C:2]([H:3])[C:4]([C:5](=[O:6])[H:7])=[C:8]([H:9])[H:10],2.49367582589
[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])=[C:15]([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17],-3.74668150441
[C:1]=[C:2]([C:3]([H:4])[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([C:3]([H:4])[O:5][C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8],4.32798564194
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9].[O:10][H:11],6.394677711669999
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.09765653399
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10]/[O:11][H:12].[H:9],2.96526352819
[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3][O:4][C:5][H:6].[H:7],4.40697483809
[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])=[C:7][H:8])[C:12]([H:13])([H:14])[H:15],5.63648747874
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],-1.77513223051
[H:11].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.80777189947
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:4].[O:1]1[C:2]([C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11])[C:3]1,3.64853367626
[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-0.662723662758
[H:8].[O:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.93178479672
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4][C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5],4.77851237247
